US06900215B2
3-Bromo-7-(1,1-dimethyl-2-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine was coupled to 4-fluoro-3-(pyridin-3-yl)benzeneboronic acid (323 mg, 1.28 mmol) following the procedure in Example 65 and deprotected as described in Example 8 to give 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]-2-methylpropan-1-ol as a white powder: δH (360 MHz, CDCl3) 1.39 (6H, s), 3.54 (1H, t, J 7), 3.89 (1H, d, J 7), 6.99 (1H, d, J 7), 7.35-7.45 (2H, m), 7.51-7.60 (2H, m), 7.83 (1H, s), 7.90-7.94 (1H, m), 8.53 (1H, d, J 7), 8.68 (1H, dd, J 5 and 2), 8.83 (1H, s); m/z (ES+) 363 (M++H).

reactant | 3-Bromo-7-(1,1-dimethyl-2-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(CO[Si](CC)(CC)CC)(C)C | C16H26BrN3OSi
reactant | 4-fluoro-3-(pyridin-3-yl)benzeneboronic acid | 1.28 mmol, 323 mg | FC1=C(C=C(C=C1)B(O)O)C=1C=NC=CC1 | C11H9BFNO2
product | 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]-2-methylpropan-1-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(CO)(C)C)C=2C=NC=CC2 | C21H19FN4O
